US09315490B2
333a) Methyl 1-(5-(4-cyclopropylpyridin-2-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate
Synthesized from methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate (1.7 g, 4.49 mmol) and 2-chloro-4-cyclopropylpyridine (1.03 g, 6.73 mmol) in analogy to the procedures 141a) and b). White solid. Yield: 1.2 g (64% of theory)

reactant | methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | 4.49 mmol, 1.7 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C15H12BrN3O2S
reactant | 2-chloro-4-cyclopropylpyridine | 6.73 mmol, 1.03 g | ClC1=NC=CC(=C1)C1CC1 | C8H8ClN
product | Methyl 1-(5-(4-cyclopropylpyridin-2-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | C1(CC1)C1=CC(=NC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C23H20N4O2S
